US07786132B2
(iii) tert-Butyl 2-(2-oxo-2,3-dihydrobenzo[d]imidazol-1-yl)ethylcarbamate
1,1-carbonyldiimidazole (0.36 g, 2.23 mmol) was added to a solution of tert-butyl 2-(2-aminophenylamino)ethylcarbamate (0.56 g, 2.23mmol) in dichloromethane (15 mL) and stirred at rt overnight. Water (50 mL) was added and the mixture was extracted with dichloromethane (3×50 mL). The combined organic layers were washed with brine (50 mL), dried over anhydrous sodium sulfate and filtered. The solvent was removed and the product was purified by column chromatography eluting with ethyl acetate/hexane (1:3) to give the title compound (230 mg, 37%).

reactant | tert-butyl 2-(2-aminophenylamino)ethylcarbamate | 2.23mmol, 0.56 g | NC1=C(C=CC=C1)NCCNC(OC(C)(C)C)=O | C13H21N3O2
reactant | Water | 50 mL | O | H2O
reactant | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | tert-Butyl 2-(2-oxo-2,3-dihydrobenzo[d]imidazol-1-yl)ethylcarbamate | 230 mg, 37% | O=C1NC2=C(N1CCNC(OC(C)(C)C)=O)C=CC=C2 | C14H19N3O3
